US08664210B2
Benzophenone O-(3-methylamino-propyl)oxime was prepared in 62% yield from benzophenone oxime and N-methyl-3-chloropropylamine hydrochloride by the procedure described above for the preparation of benzophenone O-(2-N-methylaminoethyl)oxime (Preparation 13, Step 1).

reactant | benzophenone oxime | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NO | C13H11NO
reactant | N-methyl-3-chloropropylamine hydrochloride | Cl.CNCCCCl
product | Benzophenone O-(3-methylamino-propyl)oxime | 62% yield | CNCCCON=C(C1=CC=CC=C1)C1=CC=CC=C1 | C17H20N2O
